US20010014681A1
Ethyl tetrahydropyran-2-acetate
Following the procedure of Preparative Example 14, 2.0 g (17.5 mmol) of ethyl diazo acetate was reacted with tetrahydropyran to give 1.75 g of the product as a colorless oil, bp 95°-106° C. at 20 mm Hg.

reactant | ethyl diazo acetate | 17.5 mmol, 2.0 g | CCO/C(=C/[N+]#N)/[O-] | C4H6N2O2
reactant | tetrahydropyran | O1CCCCC1 | C5H10O
product | Ethyl tetrahydropyran-2-acetate | 1.75 g | O1C(CCCC1)CC(=O)OCC | C9H16O3
